US04604480
The latter compound (2.0 g) was dissolved in 50 mL of 1:4 THF:tert-butanol and added dropwise to an ice cold solution of potassium tert-butoxide (3.00 g) in 100 mL of 1:4 THF:tert-butanol. The reaction mixture was stirred in ice for 0.5 hours and at room temperature for 2 hours. The reaction mixture was diluted with water and extracted with pentane. The combined organic layer was washed with water. The organic layer was separated, dried with anhydrous magnesium sulfate, filtered and the solvent removed in vacuo to give an oil. Distillation gave 0.34 g (48% yield) of 1,3,9,11-dodecatetraene as established by proton and carbon-13 NMR and IR analysis.

reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butoxide | 3.00 g | CC(C)([O-])C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1,3,9,11-dodecatetraene | 0.34 g, 48% yield | C=CC=CCCCCC=CC=C | C12H18
